US07666878B2
1M Aqueous NaOH (0.5 mL) is added to a stirring solution of [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester (4 mg, 0.013 mmol) in 1:1 THF/MeOH (2 mL). After 18 hours, the reaction is evaporated and the residue dissolved in water. The aqueous solution is acidified to pH 1, and extracted with ethyl acetate. The organic layer is washed with water then brine, dried (MgSO4) then evaporated, to give [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid; MH+=301.

reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
reactant | [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | 0.013 mmol, 4 mg | COC(CC1=C(N(C2=NC=CC=C21)C2=CC=C(C=C2)Cl)C)=O | C17H15ClN2O2
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | [1-(4-chloro-phenyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | ClC1=CC=C(C=C1)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C | C16H13ClN2O2
